US04784996
7-Chloro-10-hydroxy-10-(3-methoxybutyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole
A solution of 1-bromo-3-methoxybutane (2.0 g) in dry ether (20 ml) was added dropwise under a nitrogen atmosphere to magnesium turnings (0.3 g) at such a rate as to maintain gentle reflux. After 0.5 hour the reaction mixture was cooled and a solution of 7-chloro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one (1.0 g) in dry 1,2-dichloroethane (50 ml) was added dropwise. After stirring the reaction mixture for one hour at room temperature it was cooled and excess saturated ammonium chloride solution was added dropwise. The organic phase was separated and the aqueous phase was extracted with chloroform. The extracts were combined with the organic phase, dried (MgSO4) and the solution evaporated in vacuo to leave an oil which was triturated with ether to give a solid. Recrystallisation from ethyl acetate gave the title compound as crystals m.p. 146.5°-148°. A solution of these crystals in warm propan-2-ol was treated with ethereal hydrogen chloride. Evaporation in vacuo followed by recrystallisation from propan-2-ol gave the title compound as the hydrochloride, colourless needles, m.p. 226°-8°.

reactant | 1-bromo-3-methoxybutane | 2.0 g | BrCCC(C)OC | C5H11BrO
reactant | magnesium | 0.3 g | [Mg] | Mg
reactant | 7-chloro-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 1.0 g | ClC=1C=CC=2C(C=3N(C2C1)CCCN3)=O | C11H9ClN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 7-Chloro-10-hydroxy-10-(3-methoxybutyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indole | ClC=1C=CC=2C(C=3N(C2C1)CCCN3)(CCC(C)OC)O | C16H21ClN2O2
